US07696231B2
b) Preparation of 4-cyano-N-[3-(hydrazinocarbonyl)phenyl]benzamide (compound B, Scheme 2)
To a suspension of methyl 3-[(4-cyanobenzoyl)amino]benzoate (762 mg, 2.72 mmol) in EtOH (8 mL) was added hydrazine hydrate (1.79 mL). After stirring for 15 h at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with EtOH (3 mL) and water (3×3 mL) and drying under vacuo at 60° C. for 2 hrs gave 518 mg of the title compound (68%) as a white solid in 98.8% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 3-[(4-cyanobenzoyl)amino]benzoate | 2.72 mmol, 762 mg | C(#N)C1=CC=C(C(=O)NC=2C=C(C(=O)OC)C=CC2)C=C1 | C16H12N2O3
reactant | hydrazine hydrate | 1.79 mL | O.NN
solvent | EtOH | 8 mL | CCO | C2H6O
product | 4-cyano-N-[3-(hydrazinocarbonyl)phenyl]benzamide | 518 mg, 68% | C(#N)C1=CC=C(C(=O)NC2=CC(=CC=C2)C(=O)NN)C=C1 | C15H12N4O2
